US05102890
1,8-Diazabicyclo[5.4.0]undec-7-ene (10.7 g) is added dropwise to a suspension of 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (9.9 g) and 4-diisopropylaminobutyric acid hydrochloride (6.7 g) in dimethylformamide (100 cc), and the mixture is stirred at a temperature in the region of 20° C. for 20 hours. The reaction mixture is then poured into water (130 cc). The solid obtained is separated by filtration and then dissolved in methylene chloride (200 cc). The organic extracts are washed with 0.1 N aqueous hydrochloric acid solution (2×35 cc), 0.5 N aqueous hydrochloric acid solution (35 cc), and then with water (2×35 cc). The organic phase is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is taken up with methylene chloride (200 cc). The organic phase is washed with saturated aqueous sodium hydrogen carbonate solution (2×50 cc). The organic phase is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is recrystallized in isopropyl ether. 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 4-diisopropylaminobutyrate (7.1 g), m.p. 118° C., is thereby obtained.

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 10.7 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 9.9 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | 4-diisopropylaminobutyric acid hydrochloride | 6.7 g | Cl.C(C)(C)N(CCCC(=O)O)C(C)C
reactant | water | 130 cc | O | H2O
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
solvent | methylene chloride | 200 cc | C(Cl)Cl | CH2Cl2
product | 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 4-diisopropylaminobutyrate | 7.1 g | C(C)(C)N(CCCC(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl)C(C)C | C26H29ClN4O3
